US06951879B2
In analogy to example 3.1, 6-(4-Bromo-butoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene and diethanolamine were converted to yield 2-[{4-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-(2-hydroxy-ethyl)-amino]-ethanol as white semisolid, MS: 404 (MH+).

reactant | 6-(4-Bromo-butoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC=C2C2=CC=C(C=C2)F)C1 | C18H16BrFOS
reactant | diethanolamine | N(CCO)CCO | C4H11NO2
product | 2-[{4-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-(2-hydroxy-ethyl)-amino]-ethanol | FC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)OCCCCN(CCO)CCO | C22H26FNO3S
